US07812022B2
Step B: 4-[(3-Bromophenyl)ethynyl]-2-chloro-5-fluoropyrimidine
To an oven-dried flask under N2 was added 2,4-dichloro-5-fluoropyrimidine (1.66 g, 10 mmol), anhydrous, degassed THF (100 mL), dichlorobis(triphenyl-phosphine)palladium(II) (180 mg, 0.26 mmol), copper(I) iodide (29 mg, 0.15 mmol), and TEA (2.02 g, 20 mmol). After heating the reaction at 60° C. for 30 min, 1-bromo-3-ethynylbenzene (0.9 g, 5.0 mmol) was added dropwise as a solution in THF (25 mL) and the resulting mixture was allowed to heat overnight. The crude reaction mixture was adsorbed to silica gel and purified by column chromatography (2-10% EtOAc in hexanes) to afford the desired product (1.25 g, 78%) as an off white solid. ESIMS (M+H)+=311.

reactant | 2,4-dichloro-5-fluoropyrimidine | 10 mmol, 1.66 g | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 1-bromo-3-ethynylbenzene | 5.0 mmol, 0.9 g | BrC1=CC(=CC=C1)C#C | C8H5Br
solvent | THF | 25 mL | C1CCOC1 | C4H8O
catalyst | dichlorobis(triphenyl-phosphine)palladium(II) | 0.26 mmol, 180 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.15 mmol, 29 mg | [Cu]I
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-[(3-Bromophenyl)ethynyl]-2-chloro-5-fluoropyrimidine | 1.25 g, 78% | BrC=1C=C(C=CC1)C#CC1=NC(=NC=C1F)Cl | C12H5BrClFN2
